US08110681B2
A mixture of tert-butyl 2-(4-(1-oxo-6-propylisoindolin-2-yl)phenyl)propanoate (0.084 g, 0.22 mmol) and formic acid (15 mL) was stirred overnight at room temperature. The mixture was then concentrated under reduced pressure, suspended in hexanes (5 mL), sonicated, and the solid collected by filtration to afford 2-(4-(1-oxo-6-propylisoindolin-2-yl)phenyl)propanoic acid (0.041 g, 57%) as a white solid: mp 175-177° C.; 1H NMR (300 MHz, CDCl3) δ 7.83 (d, J=8.6 Hz, 2H), 7.74 (s, 1H), 7.41-7.37 (m, 4H), 4.81 (s, 2H), 3.77 (q, J=7.1 Hz, 1H), 2.70 (t, J=7.4 Hz, 2H), 1.73-1.65 (m, 2H), 1.54 (d, J=7.2 Hz, 3H), 0.95 (t, J=7.3 Hz, 3H); ESI MS m/z 324 [M+H]+.

reactant | tert-butyl 2-(4-(1-oxo-6-propylisoindolin-2-yl)phenyl)propanoate | 0.22 mmol, 0.084 g | O=C1N(CC2=CC=C(C=C12)CCC)C1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C | C24H29NO3
solvent | formic acid | 15 mL | C(=O)O | CH2O2
product | 2-(4-(1-oxo-6-propylisoindolin-2-yl)phenyl)propanoic acid | 0.041 g, 57% | O=C1N(CC2=CC=C(C=C12)CCC)C1=CC=C(C=C1)C(C(=O)O)C | C20H21NO3
